T1 ( net100 net100 0 0)  nfet  L=2.85E-6 W=3.16E-6
T2 ( net415 net100 0 0)  nfet  L=2.85E-6 W=3.16E-6
R3 ( net415 net464)  R=1.1E3
T4 (net351 net39 net39 0) pfet L=6.06E-6 W=4.94E-6
T5 (net143 net211 net211 0) nfet L=4.40E-6 W=9.27E-6
R6 ( net115 net145)  R=0.7E1
T7 ( net145 net113 vdd! vdd!)  pfet  L=2.93E-6 W=1.44E-6
T8 ( net374 net113 vdd! vdd!)  pfet  L=2.93E-6 W=1.44E-6
T9 ( net60 net145 net374 vdd!)  pfet  L=2.93E-6 W=1.44E-6
C10 (vdd! net164) C=3.9E-11
R11 ( net406 net83)  R=5.6E6
T12 ( net83 net83 net21 vdd!)  pfet  L=1.40E-6 W=4.43E-6
T13 ( net21 net370 vdd! vdd!)  pfet  L=1.40E-6 W=4.43E-6
T14 ( net370 net370 vdd! vdd!)  pfet  L=1.40E-6 W=4.43E-6
T15 ( net219 net83 net370 vdd!)  pfet  L=1.40E-6 W=4.43E-6
T16 (net200 net125 net125 0) nfet L=0.91E-6 W=8.75E-6
T17 ( net133 net133 vdd! vdd!)  pfet  L=0.82E-6 W=3.99E-6
T18 ( net149 net133 vdd! vdd!)  pfet  L=0.82E-6 W=3.99E-6
R19 ( net149 net262)  R=7.9E0
T20 (net124 net182 net182 0) pfet L=8.21E-6 W=2.33E-6
R21 ( net69 net47)  R=4.9E5
T22 ( net47 net423 vdd! vdd!)  pfet  L=3.82E-6 W=7.76E-6
T23 ( net484 net423 vdd! vdd!)  pfet  L=3.82E-6 W=7.76E-6
T24 ( 0 net47 net423 vdd!)  pfet  L=3.82E-6 W=7.76E-6
T25 (net315 net215 net215 0) pfet L=0.98E-6 W=5.49E-6
R26 ( net321 net401)  R=6.3E3
T27 ( net401 net401 net301 vdd!)  pfet  L=9.09E-6 W=8.43E-6
T28 ( net301 net146 vdd! vdd!)  pfet  L=9.09E-6 W=8.43E-6
T29 ( net146 net146 vdd! vdd!)  pfet  L=9.09E-6 W=8.43E-6
T30 ( net358 net401 net146 vdd!)  pfet  L=9.09E-6 W=8.43E-6
T31 (net71 net321 net321 0) pfet L=5.51E-6 W=5.25E-6
R32 ( net353 net361)  R=9.6E1
T33 ( net361 net361 net188 vdd!)  pfet  L=7.19E-6 W=7.94E-6
T34 ( net188 net199 vdd! vdd!)  pfet  L=7.19E-6 W=7.94E-6
T35 ( net199 net199 vdd! vdd!)  pfet  L=7.19E-6 W=7.94E-6
T36 ( 0 net361 net199 vdd!)  pfet  L=7.19E-6 W=7.94E-6
T37 (0 net349 net349 0) nfet L=2.96E-6 W=3.40E-6
T38 (net111 net310 net310 0) pfet L=1.20E-6 W=1.01E-6
C39 (net439 net465) C=6.4E-10
R40 ( vdd! net262)  R=0.2E6
T41 ( net262 net405 vdd! vdd!)  pfet  L=6.05E-6 W=0.27E-6
T42 ( net364 net405 vdd! vdd!)  pfet  L=6.05E-6 W=0.27E-6
T43 ( net124 net262 net364 vdd!)  pfet  L=6.05E-6 W=0.27E-6
C44 (net65 net349) C=1.8E-9
R45 ( net135 net181)  R=9.6E1
T46 ( net181 net181 vdd! vdd!)  pfet  L=9.12E-6 W=3.58E-6
T47 ( net197 net181 vdd! vdd!)  pfet  L=9.12E-6 W=3.58E-6
C48 (net313 vdd!) C=3.3E-9
T49 (net479 net183 net183 0) nfet L=7.92E-6 W=3.82E-6
T50 (net356 net27 net27 0) nfet L=1.38E-6 W=8.74E-6
T51 (net52 net29 net29 0) pfet L=6.14E-6 W=9.77E-6
R52 (net64 net497) R=0.7E1
R53 ( net62 net391)  R=5.9E2
T54 ( net391 net489 0 0)  nfet  L=8.74E-6 W=8.19E-6
T55 ( net220 net489 0 0)  nfet  L=8.74E-6 W=8.19E-6
T56 ( vdd! net391 net489 0)  nfet  L=8.74E-6 W=8.19E-6
T57 (net186 net258 net258 0) nfet L=0.95E-6 W=1.95E-6
C58 (net90 net421) C=9.9E-9
R59 ( net338 net307)  R=1.8E3
T60 ( net307 net475 vdd! vdd!)  pfet  L=4.88E-6 W=1.42E-6
T61 ( net470 net475 vdd! vdd!)  pfet  L=4.88E-6 W=1.42E-6
T62 ( net110 net307 net470 vdd!)  pfet  L=4.88E-6 W=1.42E-6
C63 (net8 net336) C=7.1E-13
R64 ( net154 net319)  R=9.9E4
T65 ( net319 net319 0 0)  nfet  L=6.45E-6 W=1.46E-6
T66 ( net214 net319 0 0)  nfet  L=6.45E-6 W=1.46E-6
R67 (net152 net283) R=3.4E1
T68 (net402 net353 net353 0) pfet L=5.76E-6 W=5.19E-6
R69 (net263 net467) R=8.2E6
T70 (net123 net443 net443 0) nfet L=6.92E-6 W=8.97E-6
R71 ( net209 net385)  R=0.9E0
T72 ( net385 net98 0 0)  nfet  L=2.35E-6 W=4.08E-6
T73 ( net256 net98 0 0)  nfet  L=2.35E-6 W=4.08E-6
T74 ( vdd! net385 net98 0)  nfet  L=2.35E-6 W=4.08E-6
T75 (net366 net315 net315 0) pfet L=1.34E-6 W=6.97E-6
R76 (net54 net326) R=5.8E2
T77 ( net365 net365 0 0)  nfet  L=9.01E-6 W=7.13E-6
T78 ( net93 net365 0 0)  nfet  L=9.01E-6 W=7.13E-6
R79 ( net93 net131)  R=8.4E4
T80 (net417 net473 net473 0) nfet L=4.52E-6 W=5.98E-6
R81 ( net308 net443)  R=2.8E4
T82 ( net443 net33 vdd! vdd!)  pfet  L=2.53E-6 W=8.00E-6
T83 ( net444 net33 vdd! vdd!)  pfet  L=2.53E-6 W=8.00E-6
T84 ( 0 net443 net33 vdd!)  pfet  L=2.53E-6 W=8.00E-6
T85 (net263 net109 net109 0) nfet L=9.35E-6 W=7.87E-6
R86 (net114 net348) R=4.3E3
R87 ( net159 net9)  R=9.4E0
T88 ( net9 net57 vdd! vdd!)  pfet  L=4.02E-6 W=4.74E-6
T89 ( net227 net57 vdd! vdd!)  pfet  L=4.02E-6 W=4.74E-6
T90 ( net154 net9 net227 vdd!)  pfet  L=4.02E-6 W=4.74E-6
C91 (net366 net48) C=4.2E-6
C92 (net407 net257) C=9.5E-7
R93 ( net24 net220)  R=5.0E1
T94 ( net220 net220 vdd! vdd!)  pfet  L=6.68E-6 W=3.04E-6
T95 ( net506 net220 vdd! vdd!)  pfet  L=6.68E-6 W=3.04E-6
C96 (net6 net241) C=5.1E-12
C97 (net69 net299) C=2.2E-13
R98 ( net165 net86)  R=8.8E1
T99 ( net86 net42 0 0)  nfet  L=9.23E-6 W=3.45E-6
T100 ( net85 net42 0 0)  nfet  L=9.23E-6 W=3.45E-6
T101 ( vdd! net86 net42 0)  nfet  L=9.23E-6 W=3.45E-6
T102 (net372 net24 net24 0) nfet L=6.21E-6 W=6.53E-6
C103 (net221 net298) C=7.9E-11
R104 (net433 net297) R=5.6E0
T105 (net311 net60 net60 0) nfet L=7.48E-6 W=2.03E-6
R106 (net120 net369) R=1.7E5
T107 (0 net287 net287 0) nfet L=9.17E-6 W=5.52E-6
R108 ( net318 net37)  R=8.7E2
T109 ( net37 net163 0 0)  nfet  L=0.54E-6 W=2.44E-6
T110 ( net48 net163 0 0)  nfet  L=0.54E-6 W=2.44E-6
T111 ( net213 net37 net48 0)  nfet  L=0.54E-6 W=2.44E-6
T112 (net35 net395 net395 0) pfet L=9.40E-6 W=3.71E-6
T113 (net325 net457 net457 0) pfet L=3.81E-6 W=7.39E-6
T114 (net72 net409 net409 0) nfet L=9.79E-6 W=6.11E-6
R115 ( net202 net4)  R=4.2E5
T116 ( net4 net256 vdd! vdd!)  pfet  L=7.47E-6 W=1.80E-6
T117 ( net139 net256 vdd! vdd!)  pfet  L=7.47E-6 W=1.80E-6
T118 ( 0 net4 net256 vdd!)  pfet  L=7.47E-6 W=1.80E-6
T119 (net347 net109 net109 0) pfet L=5.75E-6 W=3.87E-6
T120 (net488 net106 net106 0) pfet L=3.76E-6 W=7.78E-6
T121 (vdd! net117 net117 0) nfet L=3.71E-6 W=2.38E-6
T122 (net32 net24 net24 0) pfet L=6.01E-6 W=8.68E-6
T123 (net274 net393 net393 0) nfet L=7.34E-6 W=6.65E-6
R124 ( net173 net254)  R=1.1E6
T125 ( net254 net254 net465 0)  nfet  L=3.07E-6 W=0.36E-6
T126 ( net465 net58 0 0)  nfet  L=3.07E-6 W=0.36E-6
T127 ( net58 net58 0 0)  nfet  L=3.07E-6 W=0.36E-6
T128 ( net334 net254 net58 0)  nfet  L=3.07E-6 W=0.36E-6
R129 (net369 net111) R=5.6E4
T130 (net63 net331 net331 0) pfet L=3.19E-6 W=5.95E-6
R131 ( net363 net106)  R=9.6E1
T132 ( net106 net106 net442 0)  nfet  L=7.15E-6 W=1.04E-6
T133 ( net442 net240 0 0)  nfet  L=7.15E-6 W=1.04E-6
T134 ( net240 net240 0 0)  nfet  L=7.15E-6 W=1.04E-6
T135 ( net64 net106 net240 0)  nfet  L=7.15E-6 W=1.04E-6
T136 (net78 vdd! vdd! 0) pfet L=3.80E-6 W=7.03E-6
T137 (net362 0 0 0) pfet L=6.54E-6 W=0.33E-6
T138 ( net238 net238 vdd! vdd!)  pfet  L=1.20E-6 W=1.34E-6
T139 ( net289 net238 vdd! vdd!)  pfet  L=1.20E-6 W=1.34E-6
R140 ( net289 net230)  R=3.3E0
T141 (net488 net152 net152 0) pfet L=2.46E-6 W=5.07E-6
R142 ( net243 net341)  R=8.4E2
T143 ( net341 net341 net180 vdd!)  pfet  L=8.64E-6 W=2.67E-6
T144 ( net180 net459 vdd! vdd!)  pfet  L=8.64E-6 W=2.67E-6
T145 ( net459 net459 vdd! vdd!)  pfet  L=8.64E-6 W=2.67E-6
T146 ( net350 net341 net459 vdd!)  pfet  L=8.64E-6 W=2.67E-6
T147 (net128 net49 net49 0) pfet L=0.28E-6 W=5.85E-6
R148 (net127 net384) R=1.3E3
T149 (0 net313 net313 0) nfet L=3.46E-6 W=7.60E-6
R150 ( net393 net275)  R=2.0E0
T151 ( net275 net275 vdd! vdd!)  pfet  L=7.94E-6 W=9.66E-6
T152 ( net427 net275 vdd! vdd!)  pfet  L=7.94E-6 W=9.66E-6
T153 (net412 net372 net372 0) nfet L=4.50E-6 W=9.10E-6
T154 ( net120 net120 vdd! vdd!)  pfet  L=3.91E-6 W=4.14E-6
T155 ( net196 net120 vdd! vdd!)  pfet  L=3.91E-6 W=4.14E-6
R156 ( net196 net380)  R=3.8E2
T157 (net444 net354 net354 0) nfet L=6.00E-6 W=4.93E-6
R158 ( net12 net479)  R=4.0E5
T159 ( net479 net479 net63 0)  nfet  L=0.84E-6 W=9.99E-6
T160 ( net63 net346 0 0)  nfet  L=0.84E-6 W=9.99E-6
T161 ( net346 net346 0 0)  nfet  L=0.84E-6 W=9.99E-6
T162 ( net15 net479 net346 0)  nfet  L=0.84E-6 W=9.99E-6
T163 (net382 net408 net408 0) pfet L=0.27E-6 W=5.82E-6
T164 ( net234 net234 0 0)  nfet  L=3.97E-6 W=0.54E-6
T165 ( net308 net234 0 0)  nfet  L=3.97E-6 W=0.54E-6
R166 ( net308 net209)  R=5.7E6
R167 (net10 net293) R=5.4E0
T168 (net64 net20 net20 0) pfet L=7.74E-6 W=6.68E-6
T169 ( net160 net160 0 0)  nfet  L=8.45E-6 W=4.60E-6
T170 ( net211 net160 0 0)  nfet  L=8.45E-6 W=4.60E-6
R171 ( net211 net462)  R=3.5E4
T172 (net403 net139 net139 0) nfet L=8.10E-6 W=9.73E-6
T173 (vdd! net125 net125 0) pfet L=3.91E-6 W=3.61E-6
T174 ( net213 net213 vdd! vdd!)  pfet  L=0.73E-6 W=3.89E-6
T175 ( net248 net213 vdd! vdd!)  pfet  L=0.73E-6 W=3.89E-6
R176 ( net248 net44)  R=5.5E0
T177 (net448 vdd! vdd! 0) pfet L=9.90E-6 W=1.15E-6
R178 ( net464 net416)  R=6.7E1
T179 ( net416 net416 0 0)  nfet  L=3.64E-6 W=4.51E-6
T180 ( net94 net416 0 0)  nfet  L=3.64E-6 W=4.51E-6
R181 (net491 net25) R=1.5E1
T182 (net362 net452 net452 0) nfet L=6.64E-6 W=8.44E-6
R183 ( net224 net422)  R=1.0E0
T184 ( net422 net243 0 0)  nfet  L=1.03E-6 W=0.64E-6
T185 ( net201 net243 0 0)  nfet  L=1.03E-6 W=0.64E-6
T186 ( vdd! net422 net243 0)  nfet  L=1.03E-6 W=0.64E-6
R187 (net375 net201) R=7.3E4
R188 (net469 vdd!) R=5.3E2
T189 ( net158 net158 vdd! vdd!)  pfet  L=4.02E-6 W=2.13E-6
T190 ( net55 net158 vdd! vdd!)  pfet  L=4.02E-6 W=2.13E-6
R191 ( net55 net226)  R=3.0E0
R192 (net472 net298) R=7.8E3
T193 (net118 net501 net501 0) pfet L=7.17E-6 W=8.15E-6
R194 ( 0 net388)  R=6.4E1
T195 ( net388 net69 vdd! vdd!)  pfet  L=7.19E-6 W=8.43E-6
T196 ( net255 net69 vdd! vdd!)  pfet  L=7.19E-6 W=8.43E-6
T197 ( 0 net388 net69 vdd!)  pfet  L=7.19E-6 W=8.43E-6
T198 (net236 net458 net458 0) pfet L=3.76E-6 W=2.50E-6
C199 (net104 net123) C=6.2E-7
T200 ( net147 net147 0 0)  nfet  L=7.79E-6 W=2.17E-6
T201 ( net309 net147 0 0)  nfet  L=7.79E-6 W=2.17E-6
R202 ( net309 net51)  R=6.1E4
R203 (net494 net478) R=6.6E4
T204 ( net430 net430 0 0)  nfet  L=6.55E-6 W=1.96E-6
T205 ( net314 net430 0 0)  nfet  L=6.55E-6 W=1.96E-6
R206 ( net314 net428)  R=7.4E6
C207 (net233 vdd!) C=3.4E-13
R208 (net387 net367) R=6.3E1
R209 ( 0 net261)  R=4.0E5
T210 ( net261 net261 net438 vdd!)  pfet  L=4.53E-6 W=8.47E-6
T211 ( net438 net3 vdd! vdd!)  pfet  L=4.53E-6 W=8.47E-6
T212 ( net3 net3 vdd! vdd!)  pfet  L=4.53E-6 W=8.47E-6
T213 ( net39 net261 net3 vdd!)  pfet  L=4.53E-6 W=8.47E-6
T214 (net6 0 0 0) nfet L=5.48E-6 W=5.61E-6
R215 ( net107 net101)  R=9.9E4
T216 ( net101 net328 0 0)  nfet  L=8.01E-6 W=2.13E-6
T217 ( net487 net328 0 0)  nfet  L=8.01E-6 W=2.13E-6
T218 ( net480 net101 net487 0)  nfet  L=8.01E-6 W=2.13E-6
T219 (net454 net133 net133 0) pfet L=9.08E-6 W=0.27E-6
T220 (net170 net230 net230 0) pfet L=9.39E-6 W=2.28E-6
R221 (net407 net5) R=7.5E1
C222 (net133 net342) C=4.4E-9
C223 (net45 0) C=2.1E-5
R224 ( net250 net68)  R=4.4E2
T225 ( net68 net249 vdd! vdd!)  pfet  L=9.67E-6 W=5.83E-6
T226 ( net378 net249 vdd! vdd!)  pfet  L=9.67E-6 W=5.83E-6
T227 ( 0 net68 net249 vdd!)  pfet  L=9.67E-6 W=5.83E-6
T228 (net432 net142 net142 0) nfet L=6.37E-6 W=9.50E-6
R229 ( net61 net451)  R=6.8E5
T230 ( net451 net451 net414 0)  nfet  L=3.54E-6 W=0.49E-6
T231 ( net414 net79 0 0)  nfet  L=3.54E-6 W=0.49E-6
T232 ( net79 net79 0 0)  nfet  L=3.54E-6 W=0.49E-6
T233 ( net36 net451 net79 0)  nfet  L=3.54E-6 W=0.49E-6
C234 (net107 net318) C=0.9E-7
T235 (vdd! net13 net13 0) pfet L=7.04E-6 W=5.44E-6
R236 ( net506 net32)  R=0.6E5
T237 ( net32 net8 vdd! vdd!)  pfet  L=1.11E-6 W=5.81E-6
T238 ( net43 net8 vdd! vdd!)  pfet  L=1.11E-6 W=5.81E-6
T239 ( net335 net32 net43 vdd!)  pfet  L=1.11E-6 W=5.81E-6
T240 (net397 net157 net157 0) pfet L=2.17E-6 W=8.16E-6
R241 ( net162 net103)  R=6.1E1
T242 ( net103 net103 net245 vdd!)  pfet  L=9.19E-6 W=6.97E-6
T243 ( net245 net464 vdd! vdd!)  pfet  L=9.19E-6 W=6.97E-6
T244 ( net464 net464 vdd! vdd!)  pfet  L=9.19E-6 W=6.97E-6
T245 ( net87 net103 net464 vdd!)  pfet  L=9.19E-6 W=6.97E-6
C246 (net99 vdd!) C=8.5E-13
R247 ( net277 net397)  R=7.0E3
T248 ( net397 net397 net395 0)  nfet  L=6.48E-6 W=2.25E-6
T249 ( net395 net310 0 0)  nfet  L=6.48E-6 W=2.25E-6
T250 ( net310 net310 0 0)  nfet  L=6.48E-6 W=2.25E-6
T251 ( net285 net397 net310 0)  nfet  L=6.48E-6 W=2.25E-6
T252 (0 net97 net97 0) pfet L=9.64E-6 W=0.42E-6
T253 ( net28 net28 vdd! vdd!)  pfet  L=4.84E-6 W=4.15E-6
T254 ( net445 net28 vdd! vdd!)  pfet  L=4.84E-6 W=4.15E-6
R255 ( net445 net472)  R=0.4E4
T256 (net267 net490 net490 0) pfet L=8.99E-6 W=2.74E-6
C257 (net187 net162) C=9.6E-11
R258 (net169 net49) R=0.8E2
T259 ( net92 net92 0 0)  nfet  L=8.60E-6 W=5.87E-6
T260 ( net281 net92 0 0)  nfet  L=8.60E-6 W=5.87E-6
R261 ( net281 net225)  R=6.7E1
R262 (net384 net118) R=7.6E6
R263 ( net359 net325)  R=4.8E6
T264 ( net325 net325 net185 vdd!)  pfet  L=8.95E-6 W=4.62E-6
T265 ( net185 net265 vdd! vdd!)  pfet  L=8.95E-6 W=4.62E-6
T266 ( net265 net265 vdd! vdd!)  pfet  L=8.95E-6 W=4.62E-6
T267 ( vdd! net325 net265 vdd!)  pfet  L=8.95E-6 W=4.62E-6
R268 (net485 net409) R=7.1E0
T269 (net205 net13 net13 0) pfet L=4.61E-6 W=3.52E-6
T270 ( net264 net264 vdd! vdd!)  pfet  L=3.12E-6 W=1.28E-6
T271 ( net396 net264 vdd! vdd!)  pfet  L=3.12E-6 W=1.28E-6
R272 ( net396 net469)  R=6.5E5
T273 (net501 0 0 0) pfet L=5.55E-6 W=9.07E-6
T274 (net426 net94 net94 0) pfet L=3.41E-6 W=2.96E-6
T275 ( net253 net253 0 0)  nfet  L=9.51E-6 W=8.97E-6
T276 ( net17 net253 0 0)  nfet  L=9.51E-6 W=8.97E-6
R277 ( net17 net207)  R=6.6E1
R278 (0 vdd!) R=0.5E2
R279 (net184 net80) R=5.4E2
T280 ( net28 net28 0 0)  nfet  L=2.14E-6 W=9.51E-6
T281 ( net493 net28 0 0)  nfet  L=2.14E-6 W=9.51E-6
R282 ( net493 net363)  R=5.6E5
T283 (vdd! net333 net333 0) nfet L=1.59E-6 W=8.05E-6
R284 ( net463 net2)  R=5.2E4
T285 ( net2 net141 vdd! vdd!)  pfet  L=5.68E-6 W=2.12E-6
T286 ( net247 net141 vdd! vdd!)  pfet  L=5.68E-6 W=2.12E-6
T287 ( net192 net2 net247 vdd!)  pfet  L=5.68E-6 W=2.12E-6
T288 (net473 net333 net333 0) nfet L=3.87E-6 W=8.25E-6
C289 (net137 net159) C=5.5E-12
T290 (net123 0 0 0) nfet L=5.33E-6 W=7.27E-6
R291 (net298 net144) R=4.9E4
T292 (net266 net223 net223 0) pfet L=2.29E-6 W=0.25E-6
T293 (net237 net105 net105 0) nfet L=0.79E-6 W=5.84E-6
R294 (net255 0) R=3.6E4
T295 (net161 net124 net124 0) pfet L=2.79E-6 W=5.72E-6
T296 (net223 net111 net111 0) nfet L=8.68E-6 W=6.04E-6
T297 (net273 net190 net190 0) pfet L=6.06E-6 W=0.29E-6
T298 (net436 net305 net305 0) pfet L=6.84E-6 W=0.55E-6
T299 (net207 net263 net263 0) nfet L=9.80E-6 W=2.65E-6
R300 (net129 net263) R=1.6E5
T301 (net338 net377 net377 0) nfet L=5.50E-6 W=9.22E-6
T302 (net504 net172 net172 0) nfet L=2.87E-6 W=5.56E-6
R303 (net345 net53) R=5.2E1
T304 (net190 net447 net447 0) pfet L=9.14E-6 W=1.19E-6
T305 (net480 net270 net270 0) pfet L=9.70E-6 W=0.73E-6
T306 (net481 net77 net77 0) nfet L=5.15E-6 W=5.70E-6
C307 (net59 net480) C=1.3E-11
T308 (net171 net14 net14 0) pfet L=9.49E-6 W=2.01E-6
T309 (net231 net195 net195 0) pfet L=7.09E-6 W=8.65E-6
T310 (net345 net358 net358 0) nfet L=1.31E-6 W=3.11E-6
T311 (net184 net118 net118 0) pfet L=2.15E-6 W=5.56E-6
T312 (0 net452 net452 0) nfet L=8.13E-6 W=7.35E-6
C313 (net22 net496) C=6.3E-11
R314 (net339 net183) R=5.8E3
T315 (net481 net313 net313 0) nfet L=7.41E-6 W=0.58E-6
T316 (net189 net360 net360 0) pfet L=5.44E-6 W=3.69E-6
T317 (net22 net333 net333 0) nfet L=2.88E-6 W=9.74E-6
R318 (net393 net216) R=4.1E1
C319 (net175 0) C=4.9E-5
C320 (net324 net50) C=0.5E-5
R321 (net436 net320) R=2.9E4
C322 (net363 net492) C=9.8E-8
C323 (0 net439) C=7.9E-7
T324 (net251 net253 net253 0) nfet L=5.35E-6 W=1.45E-6
T325 (net64 net384 net384 0) pfet L=8.92E-6 W=4.96E-6
T326 (net124 net300 net300 0) nfet L=4.82E-6 W=5.94E-6
T327 (net53 net44 net44 0) pfet L=0.15E-6 W=0.14E-6
T328 (0 net386 net386 0) pfet L=8.23E-6 W=9.47E-6
T329 (net283 net378 net378 0) nfet L=8.85E-6 W=6.27E-6
T330 (net483 net215 net215 0) pfet L=3.38E-6 W=0.16E-6
C331 (net135 net158) C=4.4E-9
R332 (net218 0) R=5.9E0
T333 (net133 net336 net336 0) pfet L=3.30E-6 W=5.59E-6
T334 (net321 net54 net54 0) pfet L=8.43E-6 W=2.92E-6
C335 (net327 net50) C=9.3E-12
T336 (net350 net12 net12 0) pfet L=7.18E-6 W=9.69E-6
T337 (net34 net202 net202 0) nfet L=0.55E-6 W=3.15E-6
C338 (vdd! net44) C=7.2E-7
R339 (net52 net119) R=7.4E3
T340 (net434 net161 net161 0) nfet L=0.27E-6 W=1.07E-6
R341 (net376 net226) R=9.5E0
T342 (net506 net24 net24 0) nfet L=3.22E-6 W=2.19E-6
C343 (net259 net176) C=1.7E-11
C344 (net437 net122) C=0.8E-10
C345 (net219 net84) C=0.5E-10
C346 (net182 net384) C=7.8E-10
C347 (net359 net299) C=4.4E-12
C348 (net203 net288) C=7.9E-13
C349 (net297 net236) C=5.4E-13
T350 (net386 vdd! vdd! 0) nfet L=7.40E-6 W=5.45E-6
T351 (net300 net494 net494 0) pfet L=1.97E-6 W=5.31E-6
T352 (net131 net478 net478 0) pfet L=2.27E-6 W=3.14E-6
T353 (net498 net110 net110 0) nfet L=3.82E-6 W=8.27E-6
T354 (net14 net183 net183 0) nfet L=9.36E-6 W=5.09E-6
C355 (net178 net420) C=2.6E-12
C356 (net112 vdd!) C=6.8E-11
R357 (net499 net278) R=2.0E3
C358 (net468 0) C=1.5E-7
C359 (net260 net94) C=7.5E-11
C360 (net125 net159) C=1.3E-11
T361 (net252 net115 net115 0) pfet L=1.05E-6 W=6.81E-6
T362 (net368 net324 net324 0) pfet L=3.88E-6 W=5.21E-6
R363 (net484 net446) R=8.2E1
T364 (net100 net173 net173 0) nfet L=7.65E-6 W=3.00E-6
R365 (vdd! net187) R=6.7E6
T366 (net66 net403 net403 0) pfet L=0.41E-6 W=2.68E-6

